US07196086B2
2-Isocyanato-1-methoxy-4-(trifluoromethyl)benzene
3 g (15.69 mmol) of 2-methoxy-5-trifluoromethylaniline are dissolved in 100 ml of dichloromethane, and 6.73 g (31.39 mmol) of 1,8-bis(dimethylamino)naphthalene are added. At 0–5° C., 2.24 g (11.3 mmol) of trichloromethyl chloroformate, dissolved in 50 ml of dichloromethane, are added dropwise, and the mixture is stirred at 0° C. for 30 min and then at room temperature for 60 min. At 0° C., the mixture is washed with 1N hydrochloric acid, ice-water and sodium bicarbonate solution. Drying over magnesium sulphate and removal of the solvent by distillation gives the product. The isocyanate is then used for the subsequent reactions without further purification.

reactant | 2-methoxy-5-trifluoromethylaniline | 15.69 mmol, 3 g | COC1=C(N)C=C(C=C1)C(F)(F)F | C8H8F3NO
reactant | 1,8-bis(dimethylamino)naphthalene | 31.39 mmol, 6.73 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | trichloromethyl chloroformate | 11.3 mmol, 2.24 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-Isocyanato-1-methoxy-4-(trifluoromethyl)benzene | N(=C=O)C1=C(C=CC(=C1)C(F)(F)F)OC | C9H6F3NO2
